US07858640B2
[8-chloro-2-cyano-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid
A mixture of [8-chloro-2-cyano-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.056 g), methanol (1.5 mL), tetrahydrofuran (1.5 mL), water (2.0 mL) and lithium hydroxide (0.60 g) was stirred at room temperature for 1 hour. The mixture was partitioned between ethyl acetate and 1.0 M aqueous hydrochloric acid. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried over sodium sulfate and the solvent removed under reduced pressure. Purification of the residue by preparative reverse-phase HPLC using a gradient over 30 minutes of acetonitrile in water gave title compound as a white solid, 0.015 g.

reactant | [8-chloro-2-cyano-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.056 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C#N)CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C22H19ClN2O5S
reactant | methanol | 1.5 mL | CO | CH4O
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 0.60 g | [OH-].[Li+]
solvent | water | 2.0 mL | O | H2O
product | [8-chloro-2-cyano-3-(4-methanesulfonylbenzyl)-4-methylquinolin-5-yloxy]acetic Acid | ClC=1C=CC(=C2C(=C(C(=NC12)C#N)CC1=CC=C(C=C1)S(=O)(=O)C)C)OCC(=O)O | C21H17ClN2O5S
